US07517910B2
3-[4-({4-[(5-fluoro-2-propyl-1H-indol-1-yl)methyl]benzyl)oxy)phenyl]propanoic acid
To a solution of 5-fluoro-2-propyl-1H-indole (0.17 g, 0.98 mmol) in N,N-dimethylformamide (6.2 mL) was added sodium hydride (60% in oil, 39 mg, 0.98 mmol) with stirring at 0° C., and the mixture was stirred at the same temperature for 10 min. Methyl 3-(4-([4-(chloromethyl)benzyl]oxy}phenyl)propanoate (0.31 g, 0.98 mmol) and sodium iodide (0.15 g, 0.98 mmol) were added to the obtained mixture and the mixture was stirred at room temperature for 17 hr. The reaction mixture was diluted with ethyl acetate, and the mixture washed with 5% aqueous potassium hydrogensulfate solution, water and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure to give an oil. Then, a mixture of the obtained oil, 1 N aqueous sodium hydroxide solution (2.0 mL), methanol (5.0 mL) and tetrahydrofuran (10.0 mL) was stirred at room temperature for 2 hr. The reaction mixture was diluted with ethyl acetate, and the mixture washed with 1 N hydrochloric acid and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by preparative HPLC (gradient cycle A), and the object fractions were collected and concentrated. Water was added to the residue, and the mixture was adjusted to pH 7 with saturated aqueous sodium hydrogencarbonate, and extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure to give the title compound (0.13 g, yield 31%) as colorless crystals. MS (APCI−): 444 (M−H).

reactant | 5-fluoro-2-propyl-1H-indole | 0.98 mmol, 0.17 g | FC=1C=C2C=C(NC2=CC1)CCC | C11H12FN
reactant | sodium hydride | 0.98 mmol, 39 mg | [H-].[Na+]
reactant | Methyl 3-(4-([4-(chloromethyl)benzyl]oxy}phenyl)propanoate | 0.98 mmol, 0.31 g | ClCC1=CC=C(COC2=CC=C(C=C2)CCC(=O)OC)C=C1 | C18H19ClO3
reactant | sodium iodide | 0.98 mmol, 0.15 g | [I-].[Na+]
reactant | sodium hydroxide | 1 N, 2.0 mL | [OH-].[Na+]
solvent | N,N-dimethylformamide | 6.2 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 10.0 mL | O1CCCC1 | C4H8O
solvent | methanol | 5.0 mL | CO | CH4O
product | 3-[4-({4-[(5-fluoro-2-propyl-1H-indol-1-yl)methyl]benzyl)oxy)phenyl]propanoic acid | 0.13 g, yield 31% | FC=1C=C2C=C(N(C2=CC1)CC1=CC=C(COC2=CC=C(C=C2)CCC(=O)O)C=C1)CCC | C28H28FNO3
